US06706924B2
Preparation of 5-nitro-3,4-dihydro-1(2H)-naphthalenone
1.00 g of fluorosulfuric acid (10 mmol) are added to 1.30 g of antimony(V) fluoride (6 mmol) in a 50 ml glass round-bottomed flask under protective gas and the mixture is cooled to 0° C. Then, 380 mg of 4-(2-nitrophenyl)butyronitrile (2 mmol) are added carefully. The mixture heats up to about 50° C. and is stirred for a farther 12 h at room temperature. The mixture is poured on to ice-cold sodium hydroxide solution, stirring is continued for 30 min at room temperature and then extraction is performed with toluene. Largely complete hydrolysis is made possible by the secondary stirring period. The organic phase is dried over sodium sulfate, filtered off and the solvent is distilled off under reduced pressure. The residue is purified by chromatography on silica gel (eluent cyclohexane/ethyl acetate 5:1 v/v). The yield of 5-nitro-3,4-dihydro-1(2H)-naphthalenone is 297 mg with a GC purity of 97% (76% of theoretical value).

reactant | fluorosulfuric acid | 10 mmol, 1.00 g | S(O)(=O)(=O)F | FHO3S
reactant | antimony(V) fluoride | 6 mmol, 1.30 g | [Sb](F)(F)(F)(F)F
reactant | 4-(2-nitrophenyl)butyronitrile | 2 mmol, 380 mg | [N+](=O)([O-])C1=C(C=CC=C1)CCCC#N | C10H10N2O2
product | 5-nitro-3,4-dihydro-1(2H)-naphthalenone | [N+](=O)([O-])C1=C2CCCC(C2=CC=C1)=O | C10H9NO3
